US09145380B2
c) N-Methyldibenzo[b,d]thiophene-2-sulfonamide
A large excess of aqueous methylamine was added to a suspension of dibenzo[b,d]thiophene-2-sulfonyl chloride (2.83 g) in sulfolane (15 ml) and the mixture was stirred at RT for 3 h. The reaction mixture was diluted with water, and the precipitate was recovered, washed with water, dried and purified by silica gel chromatography eluting with a gradient of ethyl acetate:DCM of 0:100 to 10:90 to give the title compound (1.79 g, 64%).

reactant | methylamine | CN | CH5N
reactant | dibenzo[b,d]thiophene-2-sulfonyl chloride | 2.83 g | C1=C(C=CC=2SC3=C(C21)C=CC=C3)S(=O)(=O)Cl | C12H7ClO2S2
solvent | sulfolane | 15 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | water | O | H2O
product | N-Methyldibenzo[b,d]thiophene-2-sulfonamide | 1.79 g, 64% | CNS(=O)(=O)C1=CC2=C(SC3=C2C=CC=C3)C=C1 | C13H11NO2S2
